US08293768B2
Synthesis of 5-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid
Following the procedure as described in Example 14, making variations as required to replace ethyl 3-methyl-5-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiophene-2-carboxylate with ethyl 5-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylate, the title compound was obtained as a colorless solid in 80% yield: 1H NMR (300 MHz, DMSO-d6) δ 12.32 (br s, 1H), 6.27 (s, 1H), 3.89-3.78 (m, 2H), 3.69-3.58 (m, 2H), 3.06 (d, J=6.9 Hz, 2H), 2.39 (s, 3H), 1.00-0.86 (m, 1H), 0.53-0.44 (m, 2H), 0.25-0.18 (m, 2H); MS (ES+) m/z 281.2 (M+1).

reactant | ethyl 3-methyl-5-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiophene-2-carboxylate | CC1=C(SC(=C1)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O)C(=O)OCC | C19H19F3N2O3S
reactant | ethyl 5-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylate | C1(CC1)CN1C(N(CC1)C1=CC(=C(S1)C(=O)OCC)C)=O | C15H20N2O3S
product | 5-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid | 80% yield | C1(CC1)CN1C(N(CC1)C1=CC(=C(S1)C(=O)O)C)=O | C13H16N2O3S
